US04474786
Preparation of 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one
Add 19.7 gm of 4,6-dihydro-3H[2]benzopyrano-[3,4-b]pyridin-3-one to 300 ml of acetic acid. Bubble chlorine into the reaction solution for 4 hours at 100°. Cool the system and collect the product as a precipitate. Dissolve the solid into water and neutralize the solution with 1N NaOH. Extract the product with chloroform. Dry the chloroform over anhydrous magnesium sulfate and filter the solution. Remove the solvent by stripping to give the title compound.

reactant | 4,6-dihydro-3H[2]benzopyrano-[3,4-b]pyridin-3-one | 19.7 gm | C=1C2=C(NC(C1)=O)OCC1=C2C=CC=C1 | C12H9NO2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one | ClC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C12H8ClNO2
